US04389403
Using the process described in Example 49, 1-(quinolin-2-oyl)-imidazolin-2-one and 2,6-dichloroaniline, in the presence of an excess of phosphorus oxychloride, give 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline of melting point 196°-197.5° C.; the material is identical with the product obtained according to Example 46.

reactant | 1-(quinolin-2-oyl)-imidazolin-2-one | N1=C(C=CC2=CC=CC=C12)C(=O)N1C(NCC1)=O | C13H11N3O2
reactant | 2,6-dichloroaniline | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline | N1=C(C=CC2=CC=CC=C12)C(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C19H14Cl2N4O
